US07074800B1
A solution of 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (74 mg, 0.23 mmol), (prepared as described for the starting material in Example 10), and 2-hydroxynaphthalene (40 mg, 0.28 mmol) in DMF (1.5 ml) containing potassium carbonate (48 mg, 0.35 mmol) was stirred at 100° C. for 3.5 hours. After cooling, methylene chloride (4.5 ml) was added and the mixture was poured onto a column of silica (SiO2 Isolute®) and eluted with, successively, methylene chloride, methylene chloride/methanol (9/1), methylene chloride/methanol/3M ammonia in methanol (75/20/5). The fractions containing the product were evaporated under vacuum. The residues was triturated with ether, filtered and dried under vacuum to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(2-naphthyloxy)quinazoline (80 mg, 83%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.23 mmol, 74 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 2-hydroxynaphthalene | 0.28 mmol, 40 mg | OC1=CC2=CC=CC=C2C=C1 | C10H8O
reactant | potassium carbonate | 0.35 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 4.5 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(2-naphthyloxy)quinazoline | 80 mg, 83% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC1=CC2=CC=CC=C2C=C1 | C26H27N3O3
